US05506194
3.0 Grams (12 mmol) of 5-methyl-6-bromothiochroman-4-one and 1.9 g (23 mmol) of O-methylhydroxylamine hydrochloride were refluxed under heat in a mixed solvent containing 10 ml of ethanol and 10 ml of pyridine for 30 minutes. The solvents were distilled off under reduced pressure, and then 50 ml of 5% hydrochloric acid was added to form a solid. The solid was recovered by filtration, washed with water and dried to give 3.2 g of 4-methoxyimino-5-methyl-6-bromothiochroman (yield 93%).

reactant | 5-methyl-6-bromothiochroman-4-one | 12 mmol | CC1=C2C(CCSC2=CC=C1Br)=O | C10H9BrOS
reactant | O-methylhydroxylamine hydrochloride | 23 mmol, 1.9 g | Cl.CON
reactant | ethanol | 10 ml | C(C)O | C2H6O
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 4-methoxyimino-5-methyl-6-bromothiochroman | 3.2 g, yield 93% | CON=C1CCSC2=CC=C(C(=C12)C)Br | C11H12BrNOS
